US05977105
b) (2R)-2-Benzoyloxy-4-(3-pyridyl)-1-butyl para-toluenesulfonate
Diethyl azodicarboxylate (0.61 ml) was added to a solution of (2S)-2-hydroxy-4-(3-pyridyl)-1-butyl para-toluenesulfonate (1.4 g), triphenylphosphine (1.31 g) and benzoic acid (0.61 g) in tetrahydrofuran (30 ml) at 0° C. and the resulting solution stirred for 1 hour. The mixture was concentrated under reduced pressure and the residue obtained purified by column chromatography over silica eluting with diethyl ether to give the sub-title compound as a white solid (1.2 g).

reactant | Diethyl azodicarboxylate | 0.61 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (2S)-2-hydroxy-4-(3-pyridyl)-1-butyl para-toluenesulfonate | 1.4 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H](CCC=1C=NC=CC1)O)C | C16H19NO4S
reactant | triphenylphosphine | 1.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzoic acid | 0.61 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (2R)-2-Benzoyloxy-4-(3-pyridyl)-1-butyl para-toluenesulfonate | 1.2 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H](CCC=1C=NC=CC1)OC(C1=CC=CC=C1)=O)C | C23H23NO5S
